US07700634B2
Hydroxylamine hydrochloride (966 mg, 13.9 mmol) was added to a mixture of 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbonitrile (2.48 g, 9.24 mmol), triethylamine (1.41 g, 13.9 mmol), and ethanol (50 ml), then the resulting mixture was stirred at reflux for 20 h. After being cooled to room temperature, the reaction mixture was concentrated in vacuo. The obtained residue was mixed with water (150 ml), adjusted to pH 10 by the addition of aqueous sodium hydroxide and extracted with dichloromethane (4×100 ml). The organic layers were combined, washed with brine, dried over magnesium sulfate, and concentrated in vacuo. The obtained residue was purified by column chromatography eluting with 10% (v/v) acetone in dichloromethane to give 1-(cyclohexyl)methyl-N-hydroxy-7-methoxy-1H-indole-3-carboxamidine (940 mg).

reactant | Hydroxylamine hydrochloride | 13.9 mmol, 966 mg | Cl.NO
reactant | 1-(cyclohexyl)methyl-7-methoxy-1H-indole-3-carbonitrile | 9.24 mmol, 2.48 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C#N | C17H20N2O
reactant | triethylamine | 13.9 mmol, 1.41 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-(cyclohexyl)methyl-N-hydroxy-7-methoxy-1H-indole-3-carboxamidine | 940 mg | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=N)NO | C17H23N3O2
